US07943639B2
2-[(4-tert-Butylphenyl)sulfonyl]-4-piperazin-1-ylthieno[3,2-c]pyridine hydrochloride
Oxone (0.52 g, 0.84 mmol) in water (4 mL), buffered to pH ˜6 with sodium oxide acetate, was added to 2-[(4-tert-butylphenyl)thio]-4-piperazin-1-ylthieno[3,2-c]pyridine (0.42 mmol) in ethanol (30 mL). The mixture was stirred in room temperature for 2 h and more oxone (0.52 g, 0.84 mmol) was added. The reaction was stirred over night. Water was added to the mixture, extraction with dichloromethane (2×20 mL) and the solvent was removed. The products were purified by preparative HPLC. Yield: 41.9 mg (22.0%). 1H NMR (500 MHz, CH3OH-d4) δ ppm 8.38 (s, 1H) 8.05-8.01 (m, 3H) 7.80 (d, J=6.59 Hz, 1H) 7.71-7.69 (m, 2H) 4.15-4.13 (m, 4H) 3.59-3.57 (4H) 1.37-1.33 (m, 9H); LC-MS 416 (M−H)+; Purity (HPLC) 95%.

reactant | Oxone | 0.84 mmol, 0.52 g | OOS(=O)[O-].[K+]
reactant | sodium oxide acetate | C(C)(=O)[O-].[O-2].[Na+]
reactant | 2-[(4-tert-butylphenyl)thio]-4-piperazin-1-ylthieno[3,2-c]pyridine | 0.42 mmol | C(C)(C)(C)C1=CC=C(C=C1)SC1=CC=2C(=NC=CC2S1)N1CCNCC1 | C21H25N3S2
reactant | oxone | 0.84 mmol, 0.52 g | OOS(=O)[O-].[K+]
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 4 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[(4-tert-Butylphenyl)sulfonyl]-4-piperazin-1-ylthieno[3,2-c]pyridine hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1=CC=2C(=NC=CC2S1)N1CCNCC1 | InChI=1S/C21H25N3O2S2.ClH/c1-21(2,3)15-4-6-16(7-5-15)28(25,26)19-14-17-18(27-19)8-9-23-20(17)24-12-10-22-11-13-24;/h4-9,14,22H,10-13H2,1-3H3;1H
